US06458780B1
b) 7-Phenylthio-2-(tri-n-butylstannyl)-imidazo[5,1-b]thiazole
A 1.59 N n-butyl lithium/n-hexane solution (0.189 ml) was added dropwise at −73° C. in an argon atmosphere to a solution of 66.5 mg of 7-phenylthioimidazo[5,1-b]thiazole in 3 ml of THF. Subsequently, 0.098 ml of tri-n-butylstannyl chloride was added to the mixture. The mixture was stirred at the same temperature for 15 min. The temperature of the system was raised to −40° C. A 1.0 N lithiumbis(trimethylsilyl)amide/THF solution (0.11 ml) was added thereto. The mixture was stirred for one hr. An aqueous ammonium chloride solution was added to the reaction solution. The mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and then filtered. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=5:1) to give 115 mg of the title compound.

reactant | n-butyl lithium n-hexane | 1.59 N, 0.189 ml | C(CCC)[Li].CCCCCC
reactant | 7-phenylthioimidazo[5,1-b]thiazole | 66.5 mg | C1(=CC=CC=C1)SC=1N=CN2C1SC=C2 | C11H8N2S2
reactant | tri-n-butylstannyl chloride | 0.098 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | lithiumbis(trimethylsilyl)amide THF | 1.0 N, 0.11 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].C1CCOC1
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 7-Phenylthio-2-(tri-n-butylstannyl)-imidazo[5,1-b]thiazole | 115 mg | C1(=CC=CC=C1)SC=1N=CN2C1SC(=C2)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C11H7N2S2.3C4H9.Sn/c1-2-4-9(5-3-1)15-10-11-13(8-12-10)6-7-14-11;3*1-3-4-2;/h1-6,8H;3*1,3-4H2,2H3;
